US07902367B2
Step 61e) Methyl 2-[3-[(4′-chlorobiphenyl-4-yl)carbonylaminomethyl]piperidin-1-yl]benzoate
Methyl 2-[3-(aminomethyl)piperidin-1-yl]benzoate (78.2 mg, 0.315 mmol) was dissolved in N,N-dimethylformamide (3 mL) and the solution was chilled to 0° C. While this solution was stirred, 4′-chlorobiphenyl-4-carboxylic acid (81.1 mg, 0.349 mmol), 1-hydroxybenzotriazole monohydrate (54.1 mg, 0.353 mmol), N-methylmorpholine (90 μL, 0.819 mmol) and 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride (64.6 mg, 0.337 mmol) were added and the mixture was stirred for 20 min. The reaction mixture was then stirred at room temperature for 12 hours. Subsequently, the mixture was extracted with ethyl acetate and the organic layer washed sequentially with 5% aqueous citric acid, a saturated aqueous sodium bicarbonate solution, water and brine. The washed product was dried over anhydrous sodium sulfate and the solvent was concentrated. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=2:1) gave 111 mg (76%) of the desired compound as a colorless powder.

reactant | Methyl 2-[3-(aminomethyl)piperidin-1-yl]benzoate | 0.315 mmol, 78.2 mg | NCC1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C14H20N2O2
reactant | 4′-chlorobiphenyl-4-carboxylic acid | 0.349 mmol, 81.1 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9ClO2
reactant | 1-hydroxybenzotriazole monohydrate | 0.353 mmol, 54.1 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.819 mmol, 90 μL | CN1CCOCC1 | C5H11NO
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride | 0.337 mmol, 64.6 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | Methyl 2-[3-[(4′-chlorobiphenyl-4-yl)carbonylaminomethyl]piperidin-1-yl]benzoate | 111 mg, 76% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NCC1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C27H27ClN2O3
